US07504401B2
To compound [3-(4-methoxy-benzyloxy)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenyl]-(6-methoxy-pyridin-3-yl)-methanone in dimethylsulfide (2 mL) at 0° C. was added excess BF3 etherate. The resulting reaction mixture was stirred at 0° C. for 20 min. TLC indicated that the disappearance of the starting material. EtOAc was added to dilute the reaction mixture and sat. NaHCO3 was added to adjust the pH of the aqueous phase to 6-7. The aqueous phase was then extracted with EtOAc three times. The combined organic phases were dried over Na2SO4 and concentrated. The crude product was again dissolved in THF (1 mL) and treated with TBAF (1M in THF, 1 mL) at 0° C. The reaction mixture was allowed to warm up to room temperature. At the end of the reaction, the solvent was removed under reduced pressure. The residue was dissolved in EtOAc and washed with water three times. The organic phase was then dried and concentrated to afford the crude product which was further purified by preparative SFC to afford [3-hydroxy-5-(1H-indol-4-yl)-phenyl]-(6-methoxy-pyridin-3-yl)-methanone (29 mg, 75%). 1H NMR (400 MHz, CD3OD): δ 8.57 (d, J=2.3 Hz, 1H), 8.04 (dd, J=8.6, 2.3 Hz, 1H), 7.42 (d, J=1.2 Hz, 1H), 7.36-7.30 (m, 2H), 7.17 (d, J=3.1 Hz, 1H), 7.12-7.08 (m, 2H), 7.03 (d, J=7.2 Hz, 1H), 6.76 (d, J=8.6 Hz, 1H), 6.55 (d, J=2.5 Hz, 1H), 3.90 (s, 3H).

reactant | [3-(4-methoxy-benzyloxy)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenyl]-(6-methoxy-pyridin-3-yl)-methanone | COC1=CC=C(COC=2C=C(C=C(C2)C2=C3C=CN(C3=CC=C2)[Si](C(C)C)(C(C)C)C(C)C)C(=O)C=2C=NC(=CC2)OC)C=C1 | C38H44N2O4Si
reactant | BF3 | B(F)(F)F | BF3
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dimethylsulfide | 2 mL | CSC | C2H6S
product | [3-hydroxy-5-(1H-indol-4-yl)-phenyl]-(6-methoxy-pyridin-3-yl)-methanone | 29 mg, 75% | OC=1C=C(C=C(C1)C1=C2C=CNC2=CC=C1)C(=O)C=1C=NC(=CC1)OC | C21H16N2O3
